US06884801B1
(2-Amino-4-chlorophenyl)(1-pyrrolidinyl)methanone (prepared from pyrrolidine and 7-chloro-2H-3,1-benzoxazine-2,4(1H)-dione using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give (4-chloro-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]phenyl}(1-pyrrolidinyl)methanone.

reactant | (2-Amino-4-chlorophenyl)(1-pyrrolidinyl)methanone | NC1=C(C=CC(=C1)Cl)C(=O)N1CCCC1 | C11H13ClN2O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 7-chloro-2H-3,1-benzoxazine-2,4(1H)-dione | ClC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4ClNO3
product | (4-chloro-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]phenyl}(1-pyrrolidinyl)methanone | ClC1=CC(=C(C=C1)C(=O)N1CCCC1)NCC=1NCCN1 | C15H19ClN4O
